US08440662B2
Step 2: N,N-Dimethyl-4-(3-{4-[7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-benzamide
To a 50 mL round bottom flask, 2-chloro-7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazoline (1.4 g, 0.0036 mol), N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide (2.25 g, 0.0055 mol), sodium carbonate (0.775 g, 0.0073 mol), toluene (12 mL), EtOH (12 mL) and water (12 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd (PPh3)2Cl2 (128 mg, 0.000023 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 0-4% MeOH in chloroform) followed by preparative HPLC (0.1% TFA in water and ACN) to yield the title compound [0.65 g, 27%]. 1H NMR (400 MHz, DMSO-d6): δ 9.49 (brs, 1H), 9.27 (brs, 1H), 8.30 (d, J=8.8 Hz, 2H), 8.11 (t, J=9.2 Hz, 2H), 7.85 (d, J=8.8 Hz, 1H), 7.72 (d, J=8.8 Hz, 2H), 7.52 (d, J=8.8, 2H), 7.37 (d, J=8.4 Hz, 2H), 7.22 (d, J=3.2 Hz, 1H), 6.37 (s, 1H), 4.22 (brs, 4H), 3.83 (brs, 4H), 2.95 (s, 6H), 2.40 (s, 3H); LC-MS (ESI): Calculated mass: 576.2; Observed mass: 576.7 [M+H]+ (RT: 0.64 min).

reactant | 2-chloro-7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazoline | 0.0036 mol, 1.4 g | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1OC(=CC1)C | C17H16ClN3O2
reactant | N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide | 0.0055 mol, 2.25 g | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
reactant | sodium carbonate | 0.0073 mol, 0.775 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 12 mL | O | H2O
solvent | EtOH | 12 mL | CCO | C2H6O
product | N,N-Dimethyl-4-(3-{4-[7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-benzamide | 0.65 g, 27% | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1OC(=CC1)C)=O)C | C33H32N6O4
